US06100291
Triphenylphosphine (10.3 g, 39.4 mmol) and 5-hydroxyindole (5 g, 36.9 mmol) were added to a solution of cyclohexanol (3.7 mL, 35.7 mmol) in THF (200 mL) at 0° C. DEAD (5.9 mL, 39.4 mmol) was slowly added and the resulting solution was stirred for I week at room temperature. The solvent was removed in vacuo and flash chromatography (silica gel, 10% ethyl acetate in hexane) yielded 5-cyclohexyloxyindole (3.2 g, 40%).

reactant | Triphenylphosphine | 39.4 mmol, 10.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-hydroxyindole | 36.9 mmol, 5 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | cyclohexanol | 35.7 mmol, 3.7 mL | C1(CCCCC1)O | C6H12O
reactant | DEAD | 39.4 mmol, 5.9 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-cyclohexyloxyindole | 3.2 g, 40% | C1(CCCCC1)OC=1C=C2C=CNC2=CC1 | C14H17NO
